US05273743
Maleimidoacetic acid (155 mg, 1.0 mmol) in 5 ml of diglyme was treated at 0° C. with N-hydroxysuccinimide (127 mg, 1.1 mmol) and dicyclohexylcarbodiimide (227 mg, 1.1 mmol). After 1 hour at 0° C. and 3 hours at room temperature, the reaction mixture was filtered and evaporated to dryness to yield 0.25 g of crude maleimidoacetic acid N-succinimidyl ester.

reactant | Maleimidoacetic acid | 1.0 mmol, 155 mg | C1(C=CC(N1CC(=O)O)=O)=O | C6H5NO4
reactant | N-hydroxysuccinimide | 1.1 mmol, 127 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 1.1 mmol, 227 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | diglyme | 5 ml | COCCOCCOC | C6H14O3
product | maleimidoacetic acid N-succinimidyl ester | 0.25 g | C1CC(=O)N(C1=O)OC(=O)CN2C(=O)C=CC2=O | C10H8N2O6
